US04032601
Diphenyl 1-(p-chlorophenylsulfonylamino)propylphosphonate
When a mixture of 0.25 mole each of triphenyl phosphite and p-chlorobenzenesulfonamide and 0.275 mole of redistilled propionaldehyde in 150 g of chlorobenzene is warmed, heat of reaction is observed at 85°-90°. The temperature is kept at 95°-100° for 1 hr, and then the solvent is removed at reduced pressure. Acetonitrile (150 ml) is added to the residue, and the solution is cooled and filtered, giving 50 g of solid product. Recrystallization of a portion from acetonitrile gives a white solid: mp 136°-138°; 31P nmr(DMSO-d6)- 17.3 ppm.

reactant | triphenyl phosphite | 0.25 mole | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | p-chlorobenzenesulfonamide | C1=CC(=CC=C1S(=O)(=O)N)Cl | C6H6ClNO2S
reactant | propionaldehyde | 0.275 mole | C(CC)=O | C3H6O
solvent | chlorobenzene | 150 g | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl 1-(p-chlorophenylsulfonylamino)propylphosphonate | 50 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C21H21ClNO5PS
